US04999436
A solution of methyl Z-3-(2'-methylbenzylthio)-3-phenyl-2-propenoate (900 mg, 3.02 mmol) in THF (8 mL) was added dropwise through a double-ended needle to a solution of potassium tert-butoxide (1.02 g, 9.09 mmol) in THF (12 mL). An additional 2 mL of THF was used to rinse the ester into the reaction. The reaction was stirred 30 minutes at 25° C., then cooled in an ice bath and quenched by the addition of 7.0 mL of 2.0 N aqueous hydrochloric acid. The reaction was poured into 50 mL of saturated aqueous sodium chloride solution and extracted with 2×50 mL of ethyl acetate. The ethyl acetate layers were washed in succession with 50 mL of saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and evaporated. Flash column chromatography on 45 g of silica gel, eluting with 500 mL of 4% ethyl acetate in hexane followed by 500 mL of 6% ethyl acetate in hexane, gave 3-hydroxy-2-(2'-methyl phenyl) 5-phenylthiophene as an oil weighing 421 mg. The product could be distilled bulb-to-bulb, bp (0.4 mm) 140°-150° C.

reactant | methyl Z-3-(2'-methylbenzylthio)-3-phenyl-2-propenoate | 3.02 mmol, 900 mg | CC1=C(CS\C(=C/C(=O)OC)\C2=CC=CC=C2)C=CC=C1 | C18H18O2S
reactant | potassium tert-butoxide | 9.09 mmol, 1.02 g | CC(C)([O-])C.[K+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-2-(2'-methyl phenyl) 5-phenylthiophene | OC1=C(SC(=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C | C17H14OS
